US05332734
33 mg of water-soluble carbodiimide hydrochloride was added under ice-cooling to a solution of 72 mg of 2-[[[N-(9-fluorenylcarbonyl)glycyl]-L-valyl]amino]-6-methylbenzoic acid in 3 ml of N,N-dimethylformamide. The mixture was stirred at 0° C. for 0.5 hour and, then, at room temperature for 18 hours. The mixture was concentrated to give a residue which was purified by a silica gel column chromatography (eluting solution: methylene chlorideether) to afford 60 mg of 2-[1(S)-[[N-(9-fluorenylcarbonyl)glycyl]amino]-2-methylpropyl]-5-methyl-4H-3,1-benzoxazin-4-one as a white powder (see Table 1).

reactant | water | 33 mg | O | H2O
reactant | 2-[[[N-(9-fluorenylcarbonyl)glycyl]-L-valyl]amino]-6-methylbenzoic acid | 72 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)N[C@@H](C(C)C)C(=O)NC1=C(C(=O)O)C(=CC=C1)C | C29H29N3O5
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-[1(S)-[[N-(9-fluorenylcarbonyl)glycyl]amino]-2-methylpropyl]-5-methyl-4H-3,1-benzoxazin-4-one | 60 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)N[C@@H](C(C)C)C1=NC2=C(C(O1)=O)C(=CC=C2)C | C29H27N3O4
